US09421205B2
(h) tert-Butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I49)
1-Hydroxybenzotriazole (32.8 mg, 0.243 mmol), EDCl (46.6 mg, 0.243 mmol) and N,N-diisopropylethylamine (84.6 μL, 0.486 mmol) were added to a solution of lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I48) (0.130 g, 0.221 mmol) in dry THF (6 mL) and dry DMF (1 mL) under an atmosphere of nitrogen. Ammonium carbonate (84.8 mg, 0.883 mmol) was added in one portion to the stirred reaction mixture after 10 minutes. The reaction was left stirred at room temperature for 18 hours. The volatiles were removed in vacuo and the residual solution was diluted with EtOAc (50 mL), transferred to a separating funnel and washed with saturated NaHCO3 (50 mL). The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic layers were washed with water (50 mL) and brine (2×50 mL) and dried over Na2SO4. After filtration the solvent was removed in vacuo to afford a pale yellow solid. The crude material was purified by column chromatography on silica gel (0-80% EtOAc in petroleum benzine 40-60° C.) to afford the title compound (I49) (90.8 mg, 70%) as a white foamy solid; 1H NMR (400 MHz, CDCl3) δ 8.53 (s, 1H), 7.53 (m, 3H), 7.31-7.23 (m, peaks obscured by CDCl3), 7.20 (d, J=8.5 Hz, 2H), 5.37 (s, 1H), 5.29 (s, 1H), 4.25 (b s, 2H), 3.72 (s, 2H), 3.15-3.03 (m, 4H), 2.80 (t, J=12.4 Hz, 2H), 2.69-2.59 (m, 1H), 1.83 (d, J=12.6 Hz, 2H), 1.68-1.55 (m, peaks obscured by water peak), 1.49 (s, 9H). LCMS Method C: rt 6.48 min; m/z 606 [M+Na]+, 584 [M+H]+, 528 [M-tButyl+2H]+, 484 [M-Boc+2H]+.

reactant | 1-Hydroxybenzotriazole | 0.243 mmol, 32.8 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCl | 0.243 mmol, 46.6 mg | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 0.486 mmol, 84.6 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 0.221 mmol, 0.130 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)[O-])C(F)(F)F.[Li+]
reactant | Ammonium carbonate | 0.883 mmol, 84.8 mg | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | NC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C31H36F3N5O3
